US06090797
[7-(4Methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl]-(4-methoxy-phenyl)-methanone
was prepared from 7-(4-methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin (80 mg) in toluene (10 ml), 4-methoxybenzoyl chloride (66.5 mg) and triethylamine (90 uL) as described in example 2. Yield 80% of the title compound, MS: M+=379.

reactant | 7-(4-methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin | 80 mg | COC1=CC=C(C=C1)C1NCCC2=C1SC=C2 | C14H15NOS
reactant | 4-methoxybenzoyl chloride | 66.5 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 90 uL | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [7-(4Methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl]-(4-methoxy-phenyl)-methanone | Yield 80% | COC1=CC=C(C=C1)C1N(CCC2=C1SC=C2)C(=O)C2=CC=C(C=C2)OC | C22H21NO3S
